US08084623B2
4-Propyl-4-(quinoline-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester (124 mg, 0.32 mmol) was dissolved in a solution of anhydrous 1.0M HCl in MeOH (5 mL). The reaction mixture was stirred at room temperature for 15 hours then concentrated under reduced pressure to afford 82 mg (80%) of (4-propyl-piperidin-4-yl)-quinolin-2-yl-methanone hydrochloride as a yellow solid, MS=283 [M+H]+.

reactant | 4-Propyl-4-(quinoline-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 124 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)C1=NC2=CC=CC=C2C=C1)CCC | C23H30N2O3
reactant | HCl | 1.0M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (4-propyl-piperidin-4-yl)-quinolin-2-yl-methanone hydrochloride | 82 mg, 80% | Cl.C(CC)C1(CCNCC1)C(=O)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C18H22N2O.ClH/c1-2-9-18(10-12-19-13-11-18)17(21)16-8-7-14-5-3-4-6-15(14)20-16;/h3-8,19H,2,9-13H2,1H3;1H
